US06310107B1
7-(4-Biphenylyl)methoxy-3-[2-(N,N-dimethylamino)ethyl]-1,2,3,4-tetrahydro-1-methylsulfonylquinoline Hydrochloride
To a solution of 7-(4-biphenylyl)methoxy-3-[2-(N,N-dimethylamino)ethyl]-1,2,3,4-tetrahydroquinoline (110 mg) in pyridine (5 ml) was added methanesulfonyl chloride (0.03 ml) in an ice bath. The reaction mixture was stirred at room temperature for 3 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried, and concentrated. The residue was purified by alumina column chromatography (eluent: ethyl acetate:hexane=1:2) and converted into its hydrochloride, which was then recrystallized from ethanol-ethyl acetate to obtain the titled compound (88 mg).

reactant | 7-(4-biphenylyl)methoxy-3-[2-(N,N-dimethylamino)ethyl]-1,2,3,4-tetrahydroquinoline | 110 mg | C1(=CC=C(C=C1)COC1=CC=C2CC(CNC2=C1)CCN(C)C)C1=CC=CC=C1 | C26H30N2O
reactant | methanesulfonyl chloride | 0.03 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 7-(4-Biphenylyl)methoxy-3-[2-(N,N-dimethylamino)ethyl]-1,2,3,4-tetrahydro-1-methylsulfonylquinoline Hydrochloride | 88 mg | Cl.C1(=CC=C(C=C1)COC1=CC=C2CC(CN(C2=C1)S(=O)(=O)C)CCN(C)C)C1=CC=CC=C1 | InChI=1S/C27H32N2O3S.ClH/c1-28(2)16-15-22-17-25-13-14-26(18-27(25)29(19-22)33(3,30)31)32-20-21-9-11-24(12-10-21)23-7-5-4-6-8-23;/h4-14,18,22H,15-17,19-20H2,1-3H3;1H
